US07820699B2
62.1 Using general procedure E, (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 4-chloro-benzoic acid to give (R)-3-[(4-chloro-benzoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester. Yellow oil. MS 339.3 ([M+H]+)

reactant | (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-chloro-benzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
product | (R)-3-[(4-chloro-benzoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CNC(C1=CC=C(C=C1)Cl)=O | C17H23ClN2O3
